US07282586B1
To a 1 L one-necked flask was added a mixture of 30 g (0.13 mol, 68%) 5-nitro-1,10-phenanthroline, 51 g (0.61 mol) potassium oxalate, 12.5% NaOH(aq) 150 ml and 450 ml water. The mixture was then heated to reflux (100° C.) and stirred for 2 hours. After completion of the reaction, the reaction mixture was cooled to room temperature. The reaction mixture was added with 1 L ethyl acetate, stirred for 30 minutes, and filtered to collect the filtrate. The residual solids were added into 300 ml ethyl acetate, stirred for 30 minutes and filtered to collect the filtrate. The combined filtrates were extracted to separate the organic layer, dehydrated by MgSO4, concentrated, and recrystallized from 200 ml methanol, so as to obtain light yellow solids cyclopenta[2,1-b;3,4-b′]dipyridin-5-one 13.3 g (0.07 mol, yield 54%).

reactant | 5-nitro-1,10-phenanthroline | 0.13 mol, 30 g | [N+](=O)([O-])C1=C2C=CC=NC2=C2N=CC=CC2=C1 | C12H7N3O2
reactant | potassium oxalate | 0.61 mol, 51 g | C(C(=O)[O-])(=O)[O-].[K+].[K+]
reactant | NaOH | 150 ml | [OH-].[Na+]
reactant | water | 450 ml | O | H2O
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | cyclopenta[2,1-b;3,4-b′]dipyridin-5-one | 0.07 mol, 13.3 g, yield 54% | N1=C2C(=CC=C1)C(C=1C2=NC=CC1)=O | C11H6N2O
